US07538123B2
(2) t-Butyl[4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-5-methoxy-2-nitrobenzyloxy]dimethylsilane
390 mg of 3-(4-(t-butyldimethylsilyloxy-methyl)-2-methoxy-5-nitrophenyl)propane-1,2-diol was dissolved in 8 ml of acetone. Then, 0.33 g of dimethoxypropane and 26 mg of pyridinium p-toluenesulfonate were added to the reaction solution. The obtained mixture was then stirred at room temperature for 41 hours. Thereafter, the reaction solution was concentrated under a reduced pressure. The residue was diluted with ethyl acetate and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 358 mg of the subject compound.

reactant | 3-(4-(t-butyldimethylsilyloxy-methyl)-2-methoxy-5-nitrophenyl)propane-1,2-diol | 390 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C=C1[N+](=O)[O-])CC(CO)O)OC | C17H29NO6Si
reactant | dimethoxypropane | 0.33 g | COC(C)(C)OC | C5H12O2
reactant | pyridinium p-toluenesulfonate | 26 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | t-Butyl[4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-5-methoxy-2-nitrobenzyloxy]dimethylsilane | 358 mg | C(C)(C)(C)[Si](C)(C)OCC1=C(C=C(C(=C1)OC)CC1OC(OC1)(C)C)[N+](=O)[O-] | C20H33NO6Si
